Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
lisinopril
 
Attending: ___
 
Chief Complaint:
Difficulty speaking, reading
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
The patient is a ___ PMHx HTN and hypothyroidism who
presents with a transient episode of memory impairment.

Pt had been feeling well on day of presentation with no 
diarrhea,
nausea, fevers, chills, rashes or muscle aches. Around 16:30, ___
had just finished seeing his patients for the day ___ is a
cardiologist) when ___ sat down to write his notes. At this time,
___ noted his vision to feel like it was "shrinking". ___ denied
tunnel vision or scotoma and was unable to further clarify. ___
checked his BP which was normal at 130/80. 

Minutes later, ___ suddenly realized ___ was having difficulty
entering his patients notes into the computer in that ___ did not
recognize his patients names. ___ called his son in the room who
is also a cardiologist at the same office. His son reports that
pt stated "these patients are not my patients" and seemed
confused. Son asked pt what his home and office address were and
pt was slow to respond and took about ___ seconds to answer
questions. Pt recalls this entire episode, ___ just felt like ___
had "no short term memory". Son denies that pt was repeating
himself. Son performed a neurologic exam and denies any 
weakness,
sensory change or cranial nerve impairments in the pt. Son also
reports that pt had fluent speech throughout the episode. 

About 80 minutes after symptom onset, pt improved. Pt was then
brought to the ED. At the time of my assessment, pt reports
feeling 80% of his normal self but cannot further clarify apart
from feeling "off". ___ reports a ___ dull bitemporal headache
that has been ongoing since about 15 minutes after the visual
symptoms. There is no associated photosensitivity,
phonosensitivity, nausea or vomiting. Pt reports a history of
migraines but has not had one in ___ years and never had a
complex migraine or similar symptoms before.

On neurologic review of systems, the patient denies
lightheadedness. Denies difficulty with producing or
comprehending speech. Denies loss of vision, blurred vision,
diplopia, vertigo, tinnitus, hearing difficulty, dysarthria, or
dysphagia. Denies focal muscle weakness, numbness, parasthesia.
Denies loss of sensation. Denies bowel or bladder incontinence 
or
retention. Denies difficulty with gait.

On general review of systems, the patient denies fevers, chest
pain, palpitations, cough, nausea, vomiting, diarrhea,
constipation, abdominal pain, dysuria or rash.

 
Past Medical History:
HTN
Hypothyroidism
Knee replacement (___)
Cervical spondylosis
HSV oral lesion (none for months)
+PPD, negative CXR, received TB PPx
 
Social History:
___
Family History:
No family history of stroke or neurologic
disease.
 
Physical Exam:
PHYSICAL EXAMINATION
Vitals: 97.8 62 160/91 16 100% RA 
General: NAD, resting comfortably, well-appearing
HEENT: NCAT, no oropharyngeal lesions
Neck: Supple
___: RRR
Pulmonary: CTAB
Abdomen: Soft, NT, ND
Extremities: Warm, no edema
Skin: No rashes or lesions

Neurologic Examination:
- Mental Status - Awake, alert, oriented to person, place and
time. Attention to examiner easily maintained. Recalls a 
coherent
history. Speech is fluent with full sentences, intact 
repetition,
and intact verbal comprehension. Content of speech demonstrates
intact naming (high and low frequency) and no paraphasias. 
Normal
prosody. No dysarthria. No evidence of hemineglect. No 
left-right
agnosia.

- Cranial Nerves - PERRL 3->2 brisk. VF full to finger wiggling.
EOMI, no nystagmus. V1-V3 without deficits to light touch
bilaterally. No facial movement asymmetry. Hearing intact to
finger rub bilaterally.  Palate elevation symmetric. Trapezius
strength ___ bilaterally. Tongue midline.

- Motor - Normal bulk and tone. No drift. No tremor or 
asterixis.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5
R  5    ___   ___  5   5    5  5     5     5

- Sensory - No deficits to light touch, pin, or proprioception
bilaterally.

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   2
R  2  2    2    2   2
Plantar response flexor bilaterally.

- Coordination - No dysmetria with finger to nose testing
bilaterally. Good speed and intact cadence with rapid 
alternating
movements.

- Gait - Ambulates independently in a stable manner.

********
Discharge Summary

Patient continued to have a normal neurologic exam, unchanged 
from above on discharge.
 
Pertinent Results:
___ 09:30AM BLOOD WBC-3.2* RBC-3.88* Hgb-11.9* Hct-34.9* 
MCV-90 MCH-30.7 MCHC-34.1 RDW-12.9 RDWSD-42.3 Plt ___
___ 09:30AM BLOOD Glucose-109* UreaN-14 Creat-0.9 Na-138 
K-4.3 Cl-103 HCO3-25 AnGap-14
___ 07:10PM BLOOD ALT-15 AST-25 AlkPhos-54 TotBili-0.6
___ 09:30AM BLOOD Calcium-8.4 Phos-3.2 Mg-1.9 Cholest-PND
___ 09:30AM BLOOD %HbA1c-5.7 eAG-117
___ 07:10PM BLOOD TSH-3.2
___ 07:10PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG

___ Noncontrast head CT: No acute intracranial process. 
CTA head/neck: No luminal occlusion, dissection, or aneurysm 
greater than 3 mm in the principal arteries of the head and 
neck.

___ MR ___
1. Normal ___ MRI.  No acute infarct identified.
 
___ Echo:
The left atrium is elongated. The right atrium is moderately 
dilated. No atrial septal defect is seen by 2D or color Doppler. 
The estimated right atrial pressure is ___ mmHg. Normal left 
ventricular wall thickness, cavity size, and regional/global 
systolic function (biplane LVEF = 64 %). The right ventricular 
cavity is mildly dilated with normal free wall contractility. 
The diameters of aorta at the sinus, ascending and arch levels 
are normal. The aortic valve leaflets (3) appear structurally 
normal with good leaflet excursion and no aortic stenosis. Trace 
aortic regurgitation is seen. The mitral valve leaflets are 
structurally normal. Mild (1+) mitral regurgitation is seen. 
There is mild pulmonary artery systolic hypertension. There is a 
trivial/physiologic pericardial effusion. 

 IMPRESSION: No intracardiac source of thromboembolism 
identified. Preserved biventricular systolic function. Mild 
mitral and tricuspid regurgitation. Mild pulmonary artery 
systolic hypertension.  
 
Brief Hospital Course:
Mr. ___ was admitted to the neurology service after an episode 
of confusion. Upon further history, ___ was able to explain a 45 
minute episode of expressive aphasia that resolved with normal 
neurologic exam upon admission that remained stable. 

___ underwent evaluation for possible stroke: CT, CTA and MRI 
normal. A1C 5.7%. TSH 3.2. Lipid panel pending. Echo without 
thrombus, normal function, EF 64%. 

___ reports an intermittently irregular heart rate, and ___ was 
discharged to home on a HOLTER monitor ___ of Hearts). Given 
___ most likely experienced a TIA of embolic etiology, ___ was 
started on apixiban 5mg BID. 

TRANSITIONAL ISSUES:
1. ___ will follow-up with PCP and neurology. His lipid panel 
should be followed, and a statin initiated if LDL >100. 
2. Start apixiban 5mg BID. Stop aspirin.
3. F/u HOLTER results ___ of Hearts)
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Atenolol 50 mg PO DAILY 
3. amLODIPine 5 mg PO DAILY 
4. Levothyroxine Sodium 75 mcg PO DAILY 
5. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1. Atenolol 50 mg PO DAILY 
2. Levothyroxine Sodium 75 mcg PO DAILY 
3. Multivitamins 1 TAB PO DAILY 
4. amLODIPine 5 mg PO DAILY 
5. Apixaban 5 mg PO BID 
RX *apixaban [Eliquis] 5 mg 1 tablet(s) by mouth twice a day 
Disp #*30 Tablet Refills:*3

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
TIA

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Dr. ___,

___ were diagnosed with a likely TIA. Given your intermittent 
irregular heart rate by report, ___ will be discharged with a 
holter ___ of hearts) monitor to observe for atrial 
fibrillation. Your echocardiogram was normal, with no thrombus, 
and EF 64%. Your A1C was 5.7, lipid panel is pending at this 
time and can be followed up by your PCP to determine if a statin 
is needed. ___ were started on apixiban for presumed embolic 
etiology. Please stop taking aspirin. 
 
Followup Instructions:
___